US08754089B2
4-amino-6-(((1S)-1-(3-(3,5-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-2-quinolinyl)ethyl)amino)-5-pyrimidinecarbonitrile was synthesized from (S)-2-(1-(3-(3,5-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-2-yl)ethyl)-isoindoline-1,3-dione in a similar manner as the above compound 4-amino-6-(1-(3-(3,5-difluorophenyl)-6-fluoro-1-methyl-4-oxo-1,4-dihydroquinolin-2-yl)-ethylamino)pyrimidine-5-carbonitrile. 1H-NMR (400 Hz, DMSO-d6) δ 11.50 (s, 1H), 7.97 (s, 1H), 7.69-7.73 (m, 2H), 7.59 (td, J=8.0, 4.0 Hz, 1H), 7.46 (s, br, 1H), 7.17-7.22 (m, 2H), 7.05 (s, br, 1H), 5.01-5.06 (m, 1H), 1.48 (t, J=8.0 Hz, 3H). Mass Spectrum (ESI) m/e=437 (M+1).

reactant | (S)-2-(1-(3-(3,5-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-2-yl)ethyl)-isoindoline-1,3-dione | FC=1C=C(C=C(C1)F)C1=C(NC2=CC=C(C=C2C1=O)F)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C25H15F3N2O3
reactant | 4-amino-6-(1-(3-(3,5-difluorophenyl)-6-fluoro-1-methyl-4-oxo-1,4-dihydroquinolin-2-yl)-ethylamino)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)NC(C)C=1N(C2=CC=C(C=C2C(C1C1=CC(=CC(=C1)F)F)=O)F)C | C23H17F3N6O
product | 4-amino-6-(((1S)-1-(3-(3,5-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-2-quinolinyl)ethyl)amino)-5-pyrimidinecarbonitrile | NC1=NC=NC(=C1C#N)N[C@@H](C)C=1NC2=CC=C(C=C2C(C1C1=CC(=CC(=C1)F)F)=O)F | C22H15F3N6O
